US06936619B2
Benzyl 3-thioxo-1-piperazinecarboxylate
Lawesson's reagent (10.1 g, 20 mmol) was added to a solution of benzyl 3-oxo-1-piperazinecarboxylate (10 g, 43 mmol) in tetrahydrofuran (110 mL), and the reaction heated under reflux for 4 hours. The cooled mixture was concentrated under reduced pressure and the residue partitioned between 1N sodium hydroxide solution (150 mL) and ethyl acetate (250 mL), and the layers separated. The organic extract was washed with 1N sodium hydroxide solution (2×100 mL), then brine (100 mL), and the combined aqueous solutions extracted with ethyl acetate (200 mL). The combined organic solutions were dried (MgSO4) and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel using dichloromethane:methanol (98:2) as eluant to afford the title compound as a tan-coloured solid, 6.7 g.

reactant | Lawesson's reagent | 20 mmol, 10.1 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | benzyl 3-oxo-1-piperazinecarboxylate | 43 mmol, 10 g | O=C1CN(CCN1)C(=O)OCC1=CC=CC=C1 | C12H14N2O3
solvent | tetrahydrofuran | 110 mL | O1CCCC1 | C4H8O
product | Benzyl 3-thioxo-1-piperazinecarboxylate | S=C1CN(CCN1)C(=O)OCC1=CC=CC=C1 | C12H14N2O2S
